US06809092B2
(1R,2S)-2-(t-butoxycarbonylamino)cyclohexylmethylalcohol
To a solution of (1R,2S)-2-aminocyclohexylmethylalcohol (500 mg) in tetrahydrofuran (25 ml) was added di-t-butyl-dicarbonate (0.98 ml) and the mixture was stirred for 1 hour at room temperature. The reaction mixture was concentrated and the residue was dried under reduced pressure to give the title compound (1.18 g) having the following physical data.

reactant | (1R,2S)-2-aminocyclohexylmethylalcohol | 500 mg | N[C@@H]1[C@@H](CCCC1)CO | C7H15NO
reactant | di-t-butyl-dicarbonate | 0.98 ml | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | (1R,2S)-2-(t-butoxycarbonylamino)cyclohexylmethylalcohol | 1.18 g | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)CO | C12H23NO3
